US08084448B2
A. 2-(4-tert-Butoxycarbonylaminobutoxy)-6-hydroxybenzoic acid methyl ester (J. Med. Chem. 46, 3437 (2003))
To a solution of methyl 2,6-dihydroxybenzoate (1.0 g, 5.95 mmol) and 4-(Boc-amino)-1-butanol (1.1 mL, 5.95 mmol) in 60 mL THF is added PPh3 (1.7 g, 6.5 mmol) and DEAD (2.97 mL, 6.5 mmol) and the mixture is stirred at RT overnight. The solvent is removed under reduced pressure and the residue is purified by flash chromatography eluting with hexanes/EtOAc (5:1 to 2:1) to give the title compound as a colorless liquid: 1H NMR (CDCl3) δ 11.42 (s, 1H), 7.29 (t, J=8.34 Hz, 1H), 6.57 (d, J=8.34 Hz, 1H), 6.37 (d, J=8.34 Hz, 1H), 4.63 (s, 1H), 3.99 (t, J=6.06 Hz, 2H), 3.93 (s, 3H), 3.22-3.17 (m, 2H), 1.88-1.81 (m, 2H), 1.74-1.67 (m, 2H), 1.43 (s, 9H); (M−1)−=338.

reactant | methyl 2,6-dihydroxybenzoate | 5.95 mmol, 1.0 g | OC1=C(C(=O)OC)C(=CC=C1)O | C8H8O4
reactant | 4-(Boc-amino)-1-butanol | 5.95 mmol, 1.1 mL | C(=O)(OC(C)(C)C)NCCCCO | C9H19NO3
reactant | PPh3 | 6.5 mmol, 1.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 6.5 mmol, 2.97 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(4-tert-Butoxycarbonylaminobutoxy)-6-hydroxybenzoic acid methyl ester | COC(C1=C(C=CC=C1O)OCCCCNC(=O)OC(C)(C)C)=O | C17H25NO6
